US05428047
8.0 g (40.0 mmol) of 4-chloro-phenylamino-acetamide oxime are introduced into 90 ml of absolute tetrahydrofuran, the mixture is treated with 12.75 g (60.7 mmol) of trifluoroacetic anhydride and stirred at room temperature for 1.5 hours. The entire batch is subsequently concentrated in vacuo and the crude product which remains is chromatographed over a silica gel column (silica gel 60 Merck, particle size 0.040 to 0.063 mm) using chloroform: ethyl acetate (10:1) as the eluent. 5.4 g (36.1% of theory) of 3-(N-trifluoroacetyl-4-chloro-phenylaminomethyl)-5-trifluoromethyl-1,2,4-oxadiazole and 3.0 g (27.0%) of 3-(4-chloro-phenylaminomethyl)-5-trifluoro-1,2,4-oxadiazole are obtained.

reactant | 4-chloro-phenylamino-acetamide oxime | 40.0 mmol, 8.0 g | ClC1=CC=C(C=C1)NCC(N)=NO | C8H10ClN3O
reactant | trifluoroacetic anhydride | 60.7 mmol, 12.75 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3-(N-trifluoroacetyl-4-chloro-phenylaminomethyl)-5-trifluoromethyl-1,2,4-oxadiazole | 5.4 g, 36.1% | FC(C(=O)N(C1=CC=C(C=C1)Cl)CC1=NOC(=N1)C(F)(F)F)(F)F | C12H6ClF6N3O2
